*50RIA120 MCE 3/18/98
*Ref: IR Power Semiconductors Product Digest '94
*1200V 80A pkg:TO-126 1,2,3
.SUBCKT 50RIA120 1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    240K
RR  1 4    160K
RGK 6 5    37.5
RG  2 6    0.372
RK  3 5    2.71M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=32F IBV=1M BV=1.2K)
.MODEL ZR   D (IS=32F IBV=1M BV=1.2K)
.MODEL ZGK  D (IS=32F IBV=1M BV=5)
.MODEL POUT PNP (IS=32P BF=1 CJE=134P TF=80.6U)
.MODEL NOUT NPN (IS=32P BF=100 RC=10.8M CJE=670P CJC=134P TF=5.38U)
.ENDS


